US06265434B1
Step B: 2-(2-(1-(Benzyloxycarbonyl)piperidin-4-yl)ethyl)-2-phenyl-1,3-dithiolane
Boron trifluoride-acetic acid complex (BF3.2CH3CO2H, 0.370 mL, 501 mg, 2.67 mmol) was added to a solution of 1,2-ethanedithiol (0.440 mL, 494 mg, 5.25 mmol) and (1-(benzyloxycarbonyl)-4-(3-oxo-3-phenylpropyl)piperidine (930 mg, 2.65 mmol) in CH2Cl2 (4.0 mL) at RT. After 6 h, the mixture was diluted with ether (50 mL) and washed with saturated aq. NaHCO3 (2×25 mL), 2.5 N NaOH (25 mL), and saturated aq. NaCl (25 mL). The organic layer was dried (Na2SO4), decanted, and evaporated. The crude product was purified by flash column chromatography on silica gel eluting with 9:1 v/v hexanes/EtOAc to give 1.05 g of the title compound as a colorless liquid: 1H NMR (400 MHz) S 7.66 (d, J=8, 2H), 7.38-7.26 (m, 7H), 7.22 (t, J=8), 1H), 5.10 (s, 2H), 4.18-4.02 (m, 2H), 3.41-3.32 (m, 2H), 3.29-3.20 (m, 2H), 2.79-2.62 (m, 2H), 2.40-2.32 (m, 2H), 1.65-1.54 (m, 2H), 1.40-1.27 (m, 1H), 1.24-1.16 (m, 2H), 1.10-0.97 (m, 2H); ESI-MS 428 (M+H); HPLC A: 4.21 min.

reactant | Boron trifluoride acetic acid | 2.67 mmol, 0.370 mL, 501 mg | B(F)(F)F.C(C)(=O)O
reactant | 1,2-ethanedithiol | 5.25 mmol, 0.440 mL, 494 mg | C(CS)S | C2H6S2
reactant | 1-(benzyloxycarbonyl)-4-(3-oxo-3-phenylpropyl)piperidine | 2.65 mmol, 930 mg | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCC(C1=CC=CC=C1)=O | C22H25NO3
solvent | CH2Cl2 | 4.0 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 50 mL | CCOCC | C4H10O
product | 2-(2-(1-(Benzyloxycarbonyl)piperidin-4-yl)ethyl)-2-phenyl-1,3-dithiolane | 1.05 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCC1(SCCS1)C1=CC=CC=C1 | C24H29NO2S2
